US06486184B2
A solution of rac-2-cyclopentyloxy-2-(3,4-dichloro-phenyl)-acetamide (116 mg, 0.40 mmol) in toluene (5 mL) was treated with methyl isocyanate (0.04 mL, 0.60 mmol). The resulting solution was heated to reflux for 24 h, then was cooled and was evaporated under reduced pressure. The resulting oil was purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 60/40 hexanes/ethyl acetate) to furnish 1-[cyclopentyloxy-(3,4-dichloro-phenyl)-acetyl]-3-methyl-urea (30 mg, 41% yield) as a colorless oil: EI-HRMS m/e calcd for C15H18N2Cl2O3 (M+) 288.0558, found 288.0572.

reactant | rac-2-cyclopentyloxy-2-(3,4-dichloro-phenyl)-acetamide | 0.40 mmol, 116 mg | C1(CCCC1)OC(C(=O)N)C1=CC(=C(C=C1)Cl)Cl | C13H15Cl2NO2
reactant | methyl isocyanate | 0.60 mmol, 0.04 mL | CN=C=O | C2H3NO
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[cyclopentyloxy-(3,4-dichloro-phenyl)-acetyl]-3-methyl-urea | 30 mg, 41% yield | C1(CCCC1)OC(C(=O)NC(=O)NC)C1=CC(=C(C=C1)Cl)Cl | C15H18Cl2N2O3
